US07485722B2
3-[4′-(2-Dimethylamino-ethoxymethyl)-biphenyl-4-ylmethyl]-1-oxa-3-aza-spiro[4.5]decan-2-one
3-[4′-(2-Hydroxy-ethoxymethyl)-biphenyl-4-ylmethyl]-1-oxa-3-aza-spiro[4.5]decan-2-one (85 mg, 0.215 mmol) was mixed with triethylamine (0.09 mL, 0.644 mmol) in DCM (3 mL). The mixture was cooled in ice-water bath. Methane sulfonylchloride (3.3 uL, 0.49 mmol) was added and the reaction mixture was allowed to warm to room temperature. The stirring was continued for further 2 hours. The reaction mixture was quenched with saturate NaHCO3 aqueous solution (3 mL). The aqueous phase was extracted with DCM (3×3 mL). The combined organic phase was dried over sodium sulfate and concentrated to give a brown oil which was mixed with dimethyl amine (4 mL, 6.44 mmol) in a screw cap vial and heated at 60˜70° C. for 3.5 hours. The reaction mixture was concentrated, redissolved in DCM (5 mL) and stirred with saturated NaHCO3 aqueous solution (3 mL). The aqueous phase was extracted with DCM (3×4 mL). The combined organic phases were dried over sodium sulfate and concentrated to give a pale brown oil, which was purified on silica gel eluting with DCM containing 1˜2.5% 2M ammonia in methanol to give the product as a white solid (74 mg, 82%). 1H NMR (300 MHz, CDCl3): δ (ppm) 7.56 (dd, 4H), 7.41 (d, 2H), 7.29 (d, 2H), 4.64 (s, 2H), 4.45 (s, 2H), 3.56 (t, 2H), 3.12 (s, 2H), 2.54 (t, 2H), 2.27 (s, 6H), 1.75 (m, 4H), 1.52 (m, 6H).

reactant | 3-[4′-(2-Hydroxy-ethoxymethyl)-biphenyl-4-ylmethyl]-1-oxa-3-aza-spiro[4.5]decan-2-one | 0.215 mmol, 85 mg | OCCOCC1=CC=C(C=C1)C1=CC=C(C=C1)CN1C(OC2(C1)CCCCC2)=O | C24H29NO4
reactant | triethylamine | 0.644 mmol, 0.09 mL | C(C)N(CC)CC | C6H15N
reactant | Methane sulfonylchloride | 0.49 mmol, 3.3 uL | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethyl amine | 6.44 mmol, 4 mL | CNC | C2H7N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-[4′-(2-Dimethylamino-ethoxymethyl)-biphenyl-4-ylmethyl]-1-oxa-3-aza-spiro[4.5]decan-2-one | 74 mg, 82% | CN(CCOCC1=CC=C(C=C1)C1=CC=C(C=C1)CN1C(OC2(C1)CCCCC2)=O)C | C26H34N2O3
